US09403835B2
Step 2: (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(3-trifluoromethyl-pyrrolidin-3-yloxy)-phenyl]-methanone
A 4M solution of HCl in 1,4-dioxane (1.06 mL; 4.22 mmol; 25 eq.) was added to a solution of 3-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-phenoxy]-3-trifluoromethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (98 mg; 0.17 mmol; 1 eq.) in 1,4-dioxane (10 mL) and the resulting mixture was stirred at room temperature for 20 hours then concentrated in vacuo. The residue was partitioned between DCM and sat. aq. NaHCO3 and the aqueous layer was extracted with DCM. The combined organic phase was washed with brine, dried over magnesium sulfate and concentrated in vacuo. Purification by mass directed preparative HPLC afforded the title compound (15 mg, 25%) as a white solid. HPLC (max plot) 95.9%, Rt 3.23 min. UPLC/MS: (MS+) 480.3 ([M+H]+).

reactant | HCl | Cl | ClH
reactant | 3-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-phenoxy]-3-trifluoromethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.17 mmol, 98 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CC(CC1)(C(F)(F)F)OC1=C(C=CC=C1)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | C27H29ClF3N5O4
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 4.22 mmol, 1.06 mL, 25 eq. | O1CCOCC1 | C4H8O2
product | (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(3-trifluoromethyl-pyrrolidin-3-yloxy)-phenyl]-methanone | 15 mg, 25% | ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=CC=C3)OC3(CNCC3)C(F)(F)F)C | C22H21ClF3N5O2
